US04743685
(F) (S)-[1-[[[[4-[[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-2,3-dioxo-1-piperazinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
To a solution of (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone (0.44 g, 2.0 mmol) in 25 ml of dry ethyl acetate was added 0.28 g (2.0 mmol) of chlorosulfonyl isocyanate and the solution was stirred for 30 minutes at room temperature. To this were added 12 ml of dichloromethane, 0.61 g (6 mmol) of triethylamine and a prestirred (three hours) mixture of 1-[[1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-2,3-piperazinedione (0.83 g, 2.0 mmol) and N-methyl-N-(trimethylsilyl)trifluoroacetamide (1.59 g, 8.0 mmol) in 25 ml of dry ethyl acetate. After stirring for three days at room temperature, ice water was added and the pH was adjusted to one with hydrochloric acid. The insoluble residue was filtered off and dried in vacuo yielding 1.15 g of the title compound of 72% purity.

reactant | (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone | 2.0 mmol, 0.44 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | chlorosulfonyl isocyanate | 2.0 mmol, 0.28 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | triethylamine | 6 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | 1-[[1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-2,3-piperazinedione | 2.0 mmol, 0.83 g | O=C1C=C(N(C=C1OCC1=CC=CC=C1)CC1=CC=CC=C1)CN1C(C(NCC1)=O)=O | C24H23N3O4
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 8.0 mmol, 1.59 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | (S)-[1-[[[[4-[[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-2,3-dioxo-1-piperazinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 1.15 g | O=C1C=C(N(C=C1OCC1=CC=CC=C1)CC1=CC=CC=C1)CN1C(C(N(CC1)S(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)=O)=O | C36H34N6O10S
